US08664236B2
Synthesis of 4-chloro-6-[1-(4-chlorophenyl)cyclopentyl]pyrimidin-2-ylamine
360 mg of 2-amino-6-[1-(4-chlorophenyl)cyclopentyl]pyrimidin-4-ol are dissolved in 10 ml of acetonitrile, and 0.8 ml of N-ethyldiisopropylamine is added under nitrogen. 0.5 ml of phosphoryl chloride are subsequently added slowly. The batch is boiled under reflux for 8 h in order to complete the reaction. All volatile constituents are subsequently removed in vacuo, and the batch is added to ice-water and dichloromethane. The organic phase is dried over sodium sulfate, filtered and evaporated. The residue obtained is employed in the subsequent reaction without further purification. (Rt: 2.694 min.; M+H+: 308.2+310.2).

reactant | 2-amino-6-[1-(4-chlorophenyl)cyclopentyl]pyrimidin-4-ol | 360 mg | NC1=NC(=CC(=N1)O)C1(CCCC1)C1=CC=C(C=C1)Cl | C15H16ClN3O
reactant | N-ethyldiisopropylamine | 0.8 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | phosphoryl chloride | 0.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-chloro-6-[1-(4-chlorophenyl)cyclopentyl]pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)C1(CCCC1)C1=CC=C(C=C1)Cl)N | C15H15Cl2N3
